US05208247
3-(Tetradecyloxy)benzoic acid
The title compound is prepared by the procedure of Example 2 using 234 g of 3-(tetradecyloxy)benzoic acid methyl ester, 113.0 g of potassium hydroxide, 1 L of methyl alcohol and 120 ml of water. The solid residue is recrystallized from methyl alcohol/ethyl alcohol to give 209 g of the desired product.

reactant | 3-(tetradecyloxy)benzoic acid methyl ester | 234 g | COC(C1=CC(=CC=C1)OCCCCCCCCCCCCCC)=O | C22H36O3
reactant | potassium hydroxide | 113.0 g | [OH-].[K+]
reactant | methyl alcohol | 1 L | CO | CH4O
solvent | water | 120 ml | O | H2O
product | 3-(Tetradecyloxy)benzoic acid | 209 g | C(CCCCCCCCCCCCC)OC=1C=C(C(=O)O)C=CC1 | C21H34O3
